US07368578B2
To a mixture of methyl 5-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-(methanesulfonyloxy)benzoate (0.50 g), tetrahydrofuran (3 mL) and ethanol (3 mL) was added 1N aqueous sodium hydroxide solution (3 mL), and the mixture was stirred at 50° C. for 1 hr. To the reaction mixture were added 1N hydrochloric acid (3 mL) and water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give pale-yellow crystal. A mixture of the crystal, potassium carbonate (0.21 g), methyl iodide (0.55 g) and N,N-dimethylformamide (10 mL) was stirred at room temperature for 3 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give methyl 5-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-methoxybenzoate as pale-yellow crystals (0.30 g, yield 67%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 165-166° C.

reactant | methyl 5-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-(methanesulfonyloxy)benzoate | 0.50 g | C(=O)C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=CC(=C(C(=O)OC)C2)OS(=O)(=O)C)C=C1)OC | C32H29N3O10S
reactant | sodium hydroxide | 1N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 3 mL | Cl | ClH
reactant | potassium carbonate | 0.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.55 g | CI | CH3I
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | methyl 5-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-methoxybenzoate | 0.30 g, yield 67% | C(=O)C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=CC(=C(C(=O)OC)C2)OC)C=C1)OC | C32H29N3O8
